US08183239B2
Step D: N-{4-[4-(Diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-3-fluoro-benzyl}-2-ethyl-butyramide.
A solution of 2-{4-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-2-fluoro-phenyl]-piperazin-1-yl}-N,N-diethyl-2-phenyl-acetamide (0.09 g, 0.16 mmol) in ethanol (3 mL) was added hydrazine (50 μL) and the mixture stirred at rt. After 6 h, the solvent was removed and the residue treated with 2-ethyl-butyryl chloride (30 μL) as described in previous examples to provide 0.04 g of the title compound. MS: 497.6. 1H NMR (CDCl3): 7.47-7.43 (m, 2H), 7.37-7.29 (m, 3H), 6.96-6.91 (m, 2H), 6.88-6.84 (m, 1H), 5.72-5.67 (br, 1H), 4.37 (d, J=5.3, 2H), 4.23 (s, 1H), 3.49-3.36 (m, 2H), 3.31-3.15 (m, 2H), 3.14-3.05 (m, 4H), 2.74-2.63 (m, 4H), 1.89-1.82 (m, 1H), 1.68-1.58 (m, 2H), 1.53-1.43 (m, 2H), 1.10-1.01 (m, 6H), 0.91-0.86 (m, 6H).

reactant | 2-{4-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-2-fluoro-phenyl]-piperazin-1-yl}-N,N-diethyl-2-phenyl-acetamide | 0.16 mmol, 0.09 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC(=C(C=C1)N1CCN(CC1)C(C(=O)N(CC)CC)C1=CC=CC=C1)F | C31H33FN4O3
reactant | hydrazine | 50 μL | NN | H4N2
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-{4-[4-(Diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-3-fluoro-benzyl}-2-ethyl-butyramide | 0.04 g | C(C)N(C(=O)C(N1CCN(CC1)C1=C(C=C(CNC(C(CC)CC)=O)C=C1)F)C1=CC=CC=C1)CC | C29H41FN4O2
